US05461044
(a) Diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)2-diphenylmethoxycarbonylmethoxyiminoacetamido]-3-(benzothiazol-2-yl)thio-3-cephem-4-carboxylate
165 mg of diphenylmethyl 7-amino-3-(benzothiazol-2-yl)thio-3-cephem-4-carboxylate as synthesized in the same manner as in Example 1 (b) above were dissolved in 4 ml of methylene chloride, and to the resulting solution were added 243 mg of (Z)-2-(2-tritylaminothiazol-4-yl)-2-diphenylmethoxycarbonylmethoxyiminoacetic acid, 0.10 of pyridine and 35 μl of phosphorus oxychloride. Next, the acylation reaction and the post-treatment of the reaction solution were carried out in the same manner as in Example 1 (b), and the resultant residue was then purified through a column chromatography on 30 g of silica gel (as developed with mixed solvents of toluene and ethyl acetate, 10:1) to afford 260 mg of the titled compound (yield, 73%).

reactant | diphenylmethyl 7-amino-3-(benzothiazol-2-yl)thio-3-cephem-4-carboxylate | 165 mg | NC1[C@@H]2N(C(=C(CS2)C=2SC3=C(N2)C=CC=C3)C(=S)OC(C3=CC=CC=C3)C3=CC=CC=C3)C1=O | C27H21N3O2S3
reactant | (Z)-2-(2-tritylaminothiazol-4-yl)-2-diphenylmethoxycarbonylmethoxyiminoacetic acid | 243 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OCC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C39H31N3O5S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | phosphorus oxychloride | 35 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | Diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)2-diphenylmethoxycarbonylmethoxyiminoacetamido]-3-(benzothiazol-2-yl)thio-3-cephem-4-carboxylate | 260 mg, 73% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C=2SC3=C(N2)C=CC=C3)C(=S)OC(C3=CC=CC=C3)C3=CC=CC=C3)C1=O)=N/OCC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C66H50N6O6S4
